US05962462
Step G: N-(2-(3-Chlorophenyl)-5-(spiro(benzo[b] thiophene-3(2H),4'-piperidin)-1'-yl)pentyl)-N-methylbenzenesulfonamide
Spiro(benzo[b] thiophene-3(2H),4'-piperidine) hydrochloride (16.5 mg, 0.068 mmol) and N,N-diisopropylethylamine (0.036 mL, 27 mg, 0.21 mmol) were added to a solution of N-(5-bromo-2-(3-chlorophenyl)pentyl)-N-methylbenzenesulfonamide (24.6 mg, 0.057 mmol) in 0.30 mL of acetonitrile, and the mixture was heated in an oil bath at 52° C. After 2 days, tetrabutylammonium iodide (5.5 mg, 0.011 mmol) was added and the reaction was continued for an additional 24 h. Without work-up, the reaction mixture was purified by preparative TLC. Elution with 30% ethyl acetate in dichloromethane gave 13.5 mg the title compound. 1NMR (400 MHz, CD3OD): δ 7.74 (d, 2H, J=8 Hz), 7.64 (tt, 1H, J=8, 1 Hz), 7.57 (t, 2H, J=8 Hz), 7.33-7.22 (m, 3H), 7.18 (d, 1H, J=8 Hz), 7.13-7.01 (m, 4H), 3.32-3.25 (m, 3H), 3.11 (dd, 1H, J=13, 8 Hz), 3.00-2.84 (m, 3H), 2.61 (s, 3H), 2.48-2.35 (m, 2H), 2.21 (bq, 2H, J=12 Hz), 1.99 (tt, 2H, J=13, 4 Hz), 1.84-1.75 (m, 3H), 1.67-1.56 (m, 1H), 1.52-1.34 (m, 2H). Mass spectrum (ESI): m/z=555 (M+1).

reactant | Spiro(benzo[b] thiophene-3(2H),4'-piperidine) hydrochloride | 0.068 mmol, 16.5 mg | Cl.N1CCC2(CC1)C1=C(SC2)C=CC=C1
reactant | N,N-diisopropylethylamine | 0.21 mmol, 0.036 mL, 27 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(5-bromo-2-(3-chlorophenyl)pentyl)-N-methylbenzenesulfonamide | 0.057 mmol, 24.6 mg | BrCCCC(CN(S(=O)(=O)C1=CC=CC=C1)C)C1=CC(=CC=C1)Cl | C18H21BrClNO2S
solvent | acetonitrile | 0.30 mL | C(C)#N | C2H3N
catalyst | tetrabutylammonium iodide | 0.011 mmol, 5.5 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N-(2-(3-Chlorophenyl)-5-(spiro(benzo[b] thiophene-3(2H),4'-piperidin)-1'-yl)pentyl)-N-methylbenzenesulfonamide | 13.5 mg | ClC=1C=C(C=CC1)C(CN(S(=O)(=O)C1=CC=CC=C1)C)CCCN1CCC2(CC1)C1=C(SC2)C=CC=C1 | C30H35ClN2O2S2
